US04045433
3 g. of magnesium oxide are added to a solution of 2.87 g. (0.01 mmoles) of 1-methyl-5-phenyl-7-chloro-1,3,4,5-tetrahydro-2 H-1,4-benzodiazepine-2-one in 30 ml. of chloroform, and a solution of 1.2 ml. (0.018 moles) of chloroacetyl chloride in 4 ml. of chloroform is added to the vigorously stirred mixture. After 3 hours of stirring at room temperature the magnesium salt is filtered off, washed with 20 ml. of chloroform, and the filtrate is evaporated to dryness under reduced pressure. The residue is crystallized from acetone. 2.68 g. (8.14 %) of 1-methyl-4-chloroacetyl-5-phenyl-7-chloro-1,3,4,5-tetrahydro-2H-1,4-benzodiazepine-2-one are obtained; m.p.: 197°-200° C.; Rf2 = 0.5.

reactant | magnesium oxide | [O-2].[Mg+2]
reactant | 1-methyl-5-phenyl-7-chloro-1,3,4,5-tetrahydro-2 H-1,4-benzodiazepine-2-one | 0.01 mmoles | CN1C(CNC(C2=C1C=CC(=C2)Cl)C2=CC=CC=C2)=O | C16H15ClN2O
reactant | chloroacetyl chloride | 0.018 moles | ClCC(=O)Cl | C2H2Cl2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-methyl-4-chloroacetyl-5-phenyl-7-chloro-1,3,4,5-tetrahydro-2H-1,4-benzodiazepine-2-one | 8.14 % | CN1C(CN(C(C2=C1C=CC(=C2)Cl)C2=CC=CC=C2)C(CCl)=O)=O | C18H16Cl2N2O2
